US07148226B2
Preparation of Compound 2-(2-Fluoro-4-hydroxy-phenyl)-2-methyl-propionitrile
To a solution of 2-(2-Fluoro-4-methoxy-phenyl)-2-methyl-propionitrile (1.5 g, 7.8 mmol) in CH2Cl2 (75 mL) at −78° C. was added Boron tribromide (1M solution in CH2Cl2) (16 mL, 16 mmol). The solution was allowed to warm to room temperature and stir for 48 hours. The reaction was quenched with 0.5N HCl (50 mL) and poured into water (100 mL). The organic layer was separated and the aqueous was extracted with CH2Cl2 (50 mL). The combined organics were washed with water (100 mL), dried over Na2SO4, filtered and concentrated. The resulting oil was used without further purification.

reactant | 2-(2-Fluoro-4-methoxy-phenyl)-2-methyl-propionitrile | 7.8 mmol, 1.5 g | FC1=C(C=CC(=C1)OC)C(C#N)(C)C | C11H12FNO
reactant | Boron tribromide | 16 mmol, 1M, 16 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Fluoro-4-hydroxy-phenyl)-2-methyl-propionitrile | FC1=C(C=CC(=C1)O)C(C#N)(C)C | C10H10FNO
